US06989392B2
8-(4-(2-methoxyphenoxy)-1-methylbutoxy)quinolin-2-amine
The title compound was prepared according to the procedure described in Example 86 substituting 2-methoxyphenol for 8-hydroxyquinaldine. 1H NMR (500 MHz, CDCl3) δ ppm 7.94 (d, 1H), 7.28 (t, 1H), 7.15 (m, 1H), 7.14 (d, 1H), 7.02 (d, 1H), 6.86 (m, 4H), 4.74 (m, 1H), 4.06 (m, 2H), 3.80 (m, 3H), 2.21 (m, 1H), 2.02 (m, 3H), 1.45 (d, 3H); MS (DCI/NH3) m/z 353 [M+H]+.

reactant | 2-methoxyphenol | COC1=C(C=CC=C1)O | C7H8O2
reactant | 8-hydroxyquinaldine | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | NH3 | N | H3N
product | 8-(4-(2-methoxyphenoxy)-1-methylbutoxy)quinolin-2-amine | COC1=C(OCCCC(OC=2C=CC=C3C=CC(=NC23)N)C)C=CC=C1 | C21H24N2O3
